US07465815B2
To a mixture of 2,3-dimethylphenol (12.2 g, 100 mmol) and potassium carbonate (27.4 g, 200 mmol) in dimethylsulfoxide (138 mL) was added 2-bromo-1-(4-bromophenyl)-2-methylpropane-1-one (42.2 g, 175 mmol) at room temperature, and the mixture was warmed to 35° C. The mixture was stirred at the same temperature for 24 hours, poured into cold water (300 mL), and then extracted with diethyl ether. The organic layer was washed with a 4 N aqueous sodium hydroxide solution and a saturated brine, and then was dried over sodium sulfate. The solvent was concentrated under reduced pressure, and then was purified by silica gel column chromatography (ethyl acetate:hexane=1:9) to obtain 2-(2,3-dimethylphenoxy)-2-methyl-1-(4-methylphenyl)propane-1-one of oily matter. The obtained oily matter was dissolved in methanol (200 mL), sodium borohydride (3.8 g, 100 mmol) was added thereto at 0° C., and the mixture was warmed to room temperature. The oily matter was stirred at the same temperature for 1 hour, cooled to 0° C., and neutralized with 1 N hydrochloric acid, and then the solvent was distilled off under reduced pressure. The residue was extracted with ethyl acetate, and the extract solution was washed with a saturated brine, and then was dried over sodium sulfate. The solvent was distilled off under reduced pressure to obtain 17.1 g (yield 60%) of the title compound as an oily matter.

reactant | 2,3-dimethylphenol | 100 mmol, 12.2 g | CC1=C(C=CC=C1C)O | C8H10O
reactant | potassium carbonate | 200 mmol, 27.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-1-(4-bromophenyl)-2-methylpropane-1-one | 175 mmol, 42.2 g | BrC(C(=O)C1=CC=C(C=C1)Br)(C)C | C10H10Br2O
reactant | water | 300 mL | O | H2O
solvent | dimethylsulfoxide | 138 mL | CS(=O)C | C2H6OS
product | 2-(2,3-dimethylphenoxy)-2-methyl-1-(4-methylphenyl)propane-1-one | CC1=C(OC(C(=O)C2=CC=C(C=C2)C)(C)C)C=CC=C1C | C19H22O2
